US06998412B2
1-Bromo-3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}-benzene
1-[2-Acetyl-2-(p-toluoylamino) ethyl]-3-bromobenzene (13.26 g) was dissolved in 260 ml of toluene, and 6.8 ml of phosphorus oxychloride was added and heated to reflux for 3 hours. The reaction solution was cooled, poured into ice-cold water and extracted with ethyl acetate. The resulting solution was washed with aqueous solution of saturated sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=4:1) to provide 10.86 g of the objective compound as yellowish crystals. M.p. 74–75° C.

reactant | 1-[2-Acetyl-2-(p-toluoylamino) ethyl]-3-bromobenzene | 13.26 g | C(C)(=O)C(CC1=CC(=CC=C1)Br)NC(=O)C1=CC=C(C=C1)C | C18H18BrNO2
reactant | phosphorus oxychloride | 6.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Bromo-3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}-benzene | 10.86 g | BrC1=CC(=CC=C1)CC=1N=C(OC1C)C1=CC=C(C=C1)C | C18H16BrNO
